US07692005B2
A mixture of nitrocarboxylic acid (NB-2 or NB-3; 1.2 equivalents), amine (A13, A14 or A16; 1.1 equivalents), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.2 equivalents), and 1-hydroxybenzotriazole hydrate (1.2 equivalents) in DMF (0.79 M) was stirred at room temperature for 4 hours. The mixture was diluted with dichloromethane (100 mL) and washed with aqueous saturated sodium bicarbonate solution (50 mL). The aqueous layer was re-extracted with dichloromethane (2×50 mL) and the combined organic solution was dried (Na2SO4), filtered and evaporated under reduced pressure. The crude mixture was purified on silica gel column to provide the 4-nitrobenzamide (NB-2-A13, NB-2-A14 or NB-3-A16).

reactant | nitrocarboxylic acid | 1.2 equivalents | [N+](=O)([O-])C(=O)O | CHNO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 equivalents | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 1.2 equivalents | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 0.79 M | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-nitrobenzamide | [N+](=O)([O-])C1=CC=C(C(=O)N)C=C1 | C7H6N2O3
